US04686221
1-Hydroxypiperazine dihydrochloride (4.64 g), triethylamine (8.9 g) and dimethylsulfoxide (25 ml) are added to 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (5.0 g), which is prepared according to the procidures described in Japanese Patent First Publication No. 212474/1984, and the mixture is stirred with heating at 130° C. for 45 minutes. After cooling of the mixture to room temperature, the resulting crystals are filtered. To the crystals is added water (20 ml) and the mixture is stirred at 50° C. for 1 hour. The insoluble substance is filtered and recrystallized from a mixture of dimethylformamide and water to afford 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid (4.6 g) as pale yellow prisms, m.p. 223°-227° C. (decomposed with foaming).

reactant | 1-Hydroxypiperazine dihydrochloride | 4.64 g | Cl.Cl.ON1CCNCC1
reactant | triethylamine | 8.9 g | C(C)N(CC)CC | C6H15N
reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 5.0 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid | 4.6 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)O)F)=O)C(=O)O | C17H17F2N3O4
